US04952583
A mixture of 2.20 g (7.18 mmol) of 2-hydroxy-3-bromo-4-chloro-5-(1,1-dimethylethyl)benzaldehyde oxime and 3.12 g (14.72 mmol) of trifluoroacetic anhydride in 15 ml of tetrahydrofuran was cooled in an ice-water bath. A solution of 2.18 g (21.54 mmol) of triethylamine in 10 ml of tetrahydrofuran was added After refluxing for 2 hours, the solvent was evaporated and the residue was partitioned between saturated aqueous sodium bicarbonate solution and ether. The organic phase was washed with 1N hydrochloric acid, followed by water and brine. The organic phase was dried and evaporated. The residue was chromatographed on 100 g of silica gel using a gradient from 5:95 to 50:50 (v/v) ether:hexane as eluent. There was obtained 1.80 g (6.23 mmol, 87%) of 2-hydroxy-3-bromo-4-chloro-5-(1,1-dimethylethyl)benzonitrile; mp 105°-107° C.

reactant | 2-hydroxy-3-bromo-4-chloro-5-(1,1-dimethylethyl)benzaldehyde oxime | 7.18 mmol, 2.20 g | OC1=C(C=NO)C=C(C(=C1Br)Cl)C(C)(C)C | C11H13BrClNO2
reactant | trifluoroacetic anhydride | 14.72 mmol, 3.12 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 21.54 mmol, 2.18 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-hydroxy-3-bromo-4-chloro-5-(1,1-dimethylethyl)benzonitrile | 6.23 mmol, 1.80 g, 87% | OC1=C(C#N)C=C(C(=C1Br)Cl)C(C)(C)C | C11H11BrClNO
